Name:  ___.          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Abdominal distention/pain and fever
 
Major Surgical or Invasive Procedure:
Paracentesis ___ (diagnostic) and ___ (therapeutic)

 
History of Present Illness:
___ with recently diagnosed alcoholic hepatitis, persistent 
ascites, and persistent fevers and leukocytosis which have been 
atributed to her hepatitis who presented to ___ today with 
worsening abdominal distention, pain, and persistent fever. She 
denies chills but did have sweats the night prior to admission. 
She has tried to be strictly compliant with her low socium diet 
and fluid restriction, and denies any increased fluid or sodium 
intake. She reports sobriety from alcohol since ___. At ___ 
she was febrile and tender to palpation, so she was referred to 
the ED.  
.  
In the ED initial vital signs were 99.0 113/72 132 16 99% on RA. 
Her temp increased to 100.4 and her pulse came down to the 100s 
with Ativan. She received morphine 4mg IV x 4 for pain, tylenol 
___ PO x1 for fever, ondansetron 4mg IV x2 for nausea, and 
lorazeman 0.5mg IV x1 for anxiety. She underwent a diagnostic 
paracentesis but the samples were initially lost. She was 
treated with ceftriaxone 2g IV x1 for possible SBP. She was 
admitted to Medicine for further management. Fortunately, her 
samples were found after she arrived on the floor.  
.  
On the floor her mood is labile. She is at times tearful and at 
times pleasant. She does seem uncomfortable. She is not confused 
or obviously encephalopathic. She denies cough, dysuria, 
diarrhea, or rash. She does endorse decreased UOP for the past 
few days.  
.
Review of Systems:  
(+) Per HPI  
(-) Denies chills. Denies headache, sinus tenderness, rhinorrhea 
or congestion. Denies chest pain or tightness, palpitations. 
Denies cough, shortness of breath, or wheezes. Denied nausea, 
vomiting, diarrhea, constipation. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias. 
Denies rashes or skin breakdown. No numbness/tingling in 
extremities. No feelings of depression or anxiety. All other 
review of systems negative.  

 
Past Medical History:
- Alcohol abuse  
- Alcoholic hepatitis, with persistent fever and leukocytosis
- Ascites 
- Chronic back pain 
 
Social History:
___
Family History:
- Mother: ___ cancer, age ___  
- No family history of liver disease  
- Multiple relatives with alcoholism  
 
Physical Exam:
Physical Exam on Admission:  
GEN: NAD, labile affect between pleasant and tearful  
VS: 101.0 104/69 125 18 95% on RA  
HEENT: Dry MM, no OP lesions, mild scleral icterus  
CV: RR, tachy, no MRG  
PULM: Bibasilar crackles R > L  
ABD: BS+, soft, distended, diffusely tender with mild rebound, 
obvious collateral veins, some mild angiomata  
LIMBS: Trace ___ edema, no tremors or asterixis  
SKIN: No rashes or skin breakdown, scattered ecchymoses at 
puncture sites  
NEURO: A and O x 3, no pronator drift, reflexes are 1+ of the 
upper and lower extremities  
 
Pertinent Results:
LABS:

Blood ___:
WBC-17.9* RBC-3.25* HGB-11.0* HCT-34.1* MCV-105* MCH-33.9* 
MCHC-32.3 RDW-14.0 PLT COUNT-198 ___ PTT-39.3* ___
ALBUMIN-2.7* ALT(SGPT)-33 AST(SGOT)-124* ALK PHOS-186* TOT 
BILI-2.4

Ascitic Fluid ___:  
WBC-52* RBC-98* POLYS-13* LYMPHS-20* MONOS-0 EOS-1* 
MESOTHELI-16* MACROPHAG-50*
TOT PROT-1.1 LD(LDH)-42 ALBUMIN-<1.0

Ascitic Fluid ___:
WBC-104* RBB-290* POLYS-14* LYMPHS-17* MONOS-3* EOS-21* 
MESOTHELI-45* 

Blood ___:
WBC-11.1 HCT 30.7
 
RADIOLOGY:
Lumbo-sacral XR: Normal, no evidence of osteomyelitis/vertebral 
compression fracture.

 
Brief Hospital Course:
#Abdominal distention/pain:
She was treated empirically due to concern for spontaneous 
bacterial peritonitis with ceftriaxone 2g x 1.  A diagnostic 
paracentesis was performed in the ED.  Ascitic fluid analysis 
was performed.  Spontaneous bacterial peritonitis was ruled out 
given that the fluid cell count showed only 52 WBC; antibiotics 
were discontinued in this setting.  Subsequently, a large volume 
paracentesis was performed on ___ with 4.5L of fluids 
removed. After the procedure, her abdomen was less distended and 
less painful.  Fluid analysis again did not reveal SBP.  
.
#Alcoholic hepatitis:
Patient's liver synthetic function was monitored while 
hospitalized. She was maintained on her home regimen of 
lactulose. She also had 24-hr urine collection for copper to 
evaluate for ___ disease. 
.
#Leukocytosis and mild fever:
She had a temparature of 101 upon presentation in the ED.  She 
had no signs or symptoms of any infection.  Urine culture showed 
only GU flora, consistent with contamination. After arrival to 
the floor her temperature was stable, ranging from 99 to 101.  
Her WBC trended down throughout the hospitalization and was 11 
at the time of discharge.    
.
#Tachycardia:
Her heart rate was elevated in the 100-120s throughout the 
hospitalization. She had good oxygenation and had no complaints 
of SOB, dyspnea, chest pain, palpitations. The most likely 
etiology of this is pain, anxiety, and her low intravascular 
volume.  She was tachycardic in the 100s upon discharge.  
.
#Back pain:
Lumbosacral spine film revealed no skeletal abnormalities 
(vertebral compression fracture and osteomyelitis).  Her pain 
was present but well-controlled throughout the hospitalization 
with oxycodone ___ Q6H PRN pain.  Recommended follow up with 
her primary care provider to address management of her chronic 
pain. 
.
#Diet:
Low sodium (2g/day), fluid restriction (1500mL/day)
.
#Code: Full

 
Medications on Admission:
- AMITRIPTYLINE - 10 mg PO HS  
- OXYCODONE - 5 mg PO Q8H PRN pain  
- Thiamine 100mg PO daily  
- Folic acid 1mg PO daily  
- MVI PO daily  
 
Discharge Medications:
1. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
2. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Amitriptyline 10 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
4. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO DAILY 
(Daily).  
6. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Ascites
Portal hypertension
Alcoholic hepatitis
.
Secondary:
Chronic back pain

 
Discharge Condition:
Alert and Oriented.  Ambulating without help.  Hemodynamically 
stable, afebrile, tachycardic.  

 
Discharge Instructions:
You were seen in the ___ Associates with 
complaints of increasing abdominal distention and pain. In the 
clinic, you also had a mild fever, fast heart rate, and 
increased white blood count.  You were sent to the emergency 
department and admitted to the hospital for further workup.  
During the hospitalization your ascitic fluid was tapped and 
analyzed.  The result showed that you did not have an infection 
of the ascitic fluid.  Subsequently, fluid was removed from your 
abdomen via paracentesis. We also started a 24-hr urine 
collection for copper to work up for other potential causes of 
your liver disease.  The liver clinic will follow up with you 
regarding the results of these tests.  
.
Your back pain persisted during your hospitalization.  You 
underwent x-rays which showed no evidence of fracture or bone 
infection.  Please continue your home pain regimen and readdress 
with your primary care provider.
.
No changes were made to your home medications.  You should 
continue to use lactulose for constipation while using pain 
medications.  
.
Please stop using all herbal or tonic remedies until your liver 
function has recovered. Some of these therapies may interact 
with your current medications or make it difficult to interpret 
your laboratory results.
 
Followup Instructions:
___